US06909003B2
To a mixture of (E)-3-[2-Cyclopropyl-4-(4-fluoro-phenyl)-quinolin-3-yl]-propenal (50.0 g, 157.5 mmol) in acetonitrile (650 ml) and sodium dihydrogenphosphate (30.5 g, 220.5 mmol) in water (100 ml) is added hydrogen peroxide (18.8 g, 165.4 mmol) and a solution of sodium chlorite (25.0 g, 220.5 mmol) in water (120 ml) at 0° C. The reaction mixture is stirred in an ice bath for 120 min. Sodium thiosulfate pentahydrate (2.5 g, 10 mmol) and then 2M hydrochloric acid is added to adjust the pH to 2-3. After dilution with ethyl acetate (200 ml), the organic phase is separated and the pH of the aq. phase adjusted to 3-4 by addition of 2M sodium hydroxide. The reaction mixture is partitioned between ethyl acetate and water. The organic phases are separated, dried over magnesium sulphate and evaporated to afford (E)-3-[2-cyclopropyl-4-(4-fluoro-phenyl)-quinolin-3-yl]-acrylic acid. MS (ES): [M−H]− 332, Mp. 173-174° C.

reactant | (E)-3-[2-Cyclopropyl-4-(4-fluoro-phenyl)-quinolin-3-yl]-propenal | 157.5 mmol, 50.0 g | C1(CC1)C1=NC2=CC=CC=C2C(=C1/C=C/C=O)C1=CC=C(C=C1)F | C21H16FNO
reactant | sodium dihydrogenphosphate | 220.5 mmol, 30.5 g | P(=O)(O)(O)[O-].[Na+]
reactant | hydrogen peroxide | 165.4 mmol, 18.8 g | OO | H2O2
reactant | sodium chlorite | 220.5 mmol, 25.0 g | Cl(=O)[O-].[Na+]
reactant | Sodium thiosulfate pentahydrate | 10 mmol, 2.5 g | O.O.O.O.O.S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | acetonitrile | 650 ml | C(C)#N | C2H3N
solvent | water | 100 ml | O | H2O
solvent | water | 120 ml | O | H2O
product | (E)-3-[2-cyclopropyl-4-(4-fluoro-phenyl)-quinolin-3-yl]-acrylic acid | C1(CC1)C1=NC2=CC=CC=C2C(=C1/C=C/C(=O)O)C1=CC=C(C=C1)F | C21H16FNO2
